US05905068
To a stirred suspension of 570 mg (60% in oil) (14.2 mmol) of sodium hydride in 9 mL of DMF under atmospheric nitrogen at 0° C. was added dropwise 1.64 mL of ethyl thioacetate. After stirring at room temperature for 1 h, it was cooled to 0° C. A solution of 2 g (7.5 mmol) of 2,6-dimethyl-3-nitro-phenyl trifluoromethanesulfonate in 6 mL of DMF was introduced. After stirring at-0° C. for 20 min. it was partitioned between ethyl ether and 3N HCl. The combined organic extracts were washed with brine, dried over MgSO4, filtered and evaporated under reduced pressure. The resulting residue was purified by chromatography using 5% ethyl acetate: hexanes to provide 1.2 g (60%) of 2,6-dimethyl-4-nitro-thiophenol. 1H NMR (CDCl3): 2.43 (s, 3H), 3.67 (s, 1H), 7.93 (s, 2H).

reactant | sodium hydride | 14.2 mmol, 570 mg | [H-].[Na+]
reactant | ethyl thioacetate | 1.64 mL | C(C)(=S)OCC | C4H8OS
reactant | 2,6-dimethyl-3-nitro-phenyl trifluoromethanesulfonate | 7.5 mmol, 2 g | FC(S(=O)(=O)OC1=C(C(=CC=C1C)[N+](=O)[O-])C)(F)F | C9H8F3NO5S
reactant | DMF | 9 mL | CN(C)C=O | C3H7NO
reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 2,6-dimethyl-4-nitro-thiophenol | 1.2 g, 60% | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)S | C8H9NO2S
